US03962376
Di-n-octadecyl 4-tert.-butyl-2,6-dimethyl-3-hydroxybenzylphosphonate
21.7 Grams of trioctadecyl phosphite and 5.75 grams 6-tert.-butyl-3-chloromethyl-2,4-dimethylphenol were stirred together as a melt at 110° to 120° for 2 hours and at 120° to 125° for 7 hours. The reaction mixture was dissolved in 100 ml. of toluene and the colorless, slightly turbid solution was successively washed with 3N aqueous hydrochloric acid, water, 2N aqueous sodium carbonate solution and water until the wash waters were neutral. After drying over anhydrous sodium sulfate and filtering free of drying agent, the clear filtrate was concentrated by distillation of the solvent at reduced pressures. The residual oil was topped in the "ASCO 50" Rota-Film Molecular Still at a wall temperature of 210° to 215° and a pressure of 1 to 5 microns. After crystallization from methylethyl ketone, the desired product was obtained as while crystals melting at 70° to 72.5°. (compound 4)

reactant | trioctadecyl phosphite | P(OCCCCCCCCCCCCCCCCCC)(OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C54H111O3P
reactant | 6-tert.-butyl-3-chloromethyl-2,4-dimethylphenol | 5.75 grams | C(C)(C)(C)C1=CC(=C(C(=C1O)C)CCl)C | C13H19ClO
product | Di-n-octadecyl 4-tert.-butyl-2,6-dimethyl-3-hydroxybenzylphosphonate | C(C)(C)(C)C1=C(C(=C(CP(OCCCCCCCCCCCCCCCCCC)(OCCCCCCCCCCCCCCCCCC)=O)C(=C1)C)C)O | C49H93O4P
